US05574055
Ethyl 4-cycloheptylphenyl-carbamate
6.81 g (36.0 mmol) of 4-aminophenyl-cycloheptane were dissolved in 60 ml of methylene chloride and treated with 3.13 g (39.6 mmol) of pyridine. The reaction mixture was treated dropwise at room temperature while stirring with a solution of 4.3 g (39.6 mmol) of ethyl chloroformate in 15 ml of methylene chloride. After 2 hours the mixture was washed with water and the organic phase was dried over sodium sulfate, filtered and evaporated. The ethyl 4-cycloheptylphenyl-carbamate distilled at 165°-170° and 0.3 mbar.

reactant | 4-aminophenyl-cycloheptane | 36.0 mmol, 6.81 g | NC1=CC=C(C=C1)C1CCCCCC1 | C13H19N
reactant | pyridine | 39.6 mmol, 3.13 g | N1=CC=CC=C1 | C5H5N
reactant | ethyl chloroformate | 39.6 mmol, 4.3 g | ClC(=O)OCC | C3H5ClO2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 4-cycloheptylphenyl-carbamate | C1(CCCCCC1)C1=CC=C(C=C1)NC(OCC)=O | C16H23NO2
